US07459562B2
C) N-(4-Fluorophenyl)-N-(4-(pyridin-4-yloxy)phenyl)malonamide
A solution of 4-(4-aminophenoxy)pyridine (93 mg, 0.50 mmol) in DMF was treated with 3-(4-fluorophenylamino)-3-oxopropanoic acid (99 mg, 0.50 mmol), DIPEA (113 μL, 0.65 mmol) and TBTU (209 mg, 0.65 mmol) and the mixture was stirred at RT for 2 h. The mixture was concentrated to remove the DMF and the residue partitioned between EtOAc and saturated sodium bicarbonate solution. The EtOAc phase was washed with saturated sodium bicarbonate solution, brine, dried (MgSO4) and concentrated to give the title compound as an off-white foam (140 mg, 76%). 1H NMR (DMSO-d6) δ 10.30 (s, 1H), 10.24 (s, 1H), 8.43 (dd, 2H, J=5.5, 1.5 Hz), 7.70 (d, 2H, J=9.1 Hz), 7.63-7.60 (m, 2H), 7.17-7.14 (m, 4H), 6.89 (dd, 2H, J=5.5, 1.5 Hz), 3.46 (s, 2H); MS(ESI+) m/z 365.9 (M+H)+.

reactant | 4-(4-aminophenoxy)pyridine | 0.50 mmol, 93 mg | NC1=CC=C(OC2=CC=NC=C2)C=C1 | C11H10N2O
reactant | 3-(4-fluorophenylamino)-3-oxopropanoic acid | 0.50 mmol, 99 mg | FC1=CC=C(C=C1)NC(CC(=O)O)=O | C9H8FNO3
reactant | DIPEA | 0.65 mmol, 113 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | TBTU | 0.65 mmol, 209 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
solvent | DMF | CN(C)C=O | C3H7NO
product | N-(4-Fluorophenyl)-N-(4-(pyridin-4-yloxy)phenyl)malonamide | 140 mg, 76% | FC1=CC=C(C=C1)N(C(CC(=O)N)=O)C1=CC=C(C=C1)OC1=CC=NC=C1 | C20H16FN3O3
